US05061713
2-(2-FLUOROPHENYL)-6-BUTYRYLOXAZOLO[5,4-b]PYRIDINE
Using the procedure described in Example 1, but replacing 2-phenyloxazolo[4,5-b]pyridine by 2-(2-fluorophenyl)oxazolo[5,4-b]pyridine (J. Med. Chem. 1978, 21, 11, 1158+) and using 8.4 ml of concentrated sulfuric acid in 16.8 ml of water and 16.8 ml of acetic acid, and after purification on a column of silica (40 to 63μ; 70-230 mesh; eluent: ethyl acetate/toluene, 1:9), the product of the title is obtained.

reactant | 2-(2-fluorophenyl)oxazolo[5,4-b]pyridine | FC1=C(C=CC=C1)C=1OC2=NC=CC=C2N1 | C12H7FN2O
reactant | sulfuric acid | 8.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 16.8 ml | O | H2O
solvent | acetic acid | 16.8 ml | C(C)(=O)O | C2H4O2
product | 2-(2-FLUOROPHENYL)-6-BUTYRYLOXAZOLO[5,4-b]PYRIDINE | FC1=C(C=CC=C1)C=1OC2=NC=C(C=C2N1)C(CCC)=O | C16H13FN2O2
